US07855290B2
tert-Butyl 3-(hydroxymethyl)azetidine-1-carboxylate
Lithium aluminum hydride (128 mg) was placed in a round-bottomed flask and suspended in tetrahydrofuran (30 ml). This was cooled in an ice bath, and a solution of methyl 1-tert-butoxycarbonylazetidine-3-carboxylate (970 mg) in tetrahydrofuran (10 ml) was gradually added thereto, followed by stirring under a nitrogen atmosphere at the same temperature for 1 hr. To the reaction mixture were added water (0.13 ml) and a 5N aqueous solution of sodium hydroxide (0.13 ml) and water (0.39 ml) while cooling in an ice bath, followed by stirring at the same temperature for 1 hr. Insoluble matter in the reaction mixture was removed by filtration. The filtrate was concentrated to provide the titled compound as a colorless oil (805 mg, 95.3%).

reactant | Lithium aluminum hydride | 128 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1-tert-butoxycarbonylazetidine-3-carboxylate | 970 mg | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)OC | C10H17NO4
reactant | water | 0.13 ml | O | H2O
reactant | sodium hydroxide | 0.13 ml | [OH-].[Na+]
reactant | water | 0.39 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-Butyl 3-(hydroxymethyl)azetidine-1-carboxylate | 805 mg, 95.3% | OCC1CN(C1)C(=O)OC(C)(C)C | C9H17NO3
